US08981085B2
A mixture of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-ethylbutanamide (225 mg, 0.686 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (412 mg, 2.06 mmol), and N-ethyl-N-isopropylpropan-2-amine (239 μL, 1.37 mmol) in n-BuOH (5 mL) was purged under N2 and stirred at 160° C. in a sealed tube for 16 hours. The solvent was then removed in vacuo, and the liquid residue was purified by C-18 reverse phase column chromatography (Biotage Flash 25M+; C-18) on Biotage SP4 unit eluting with a gradient of 15-90% CH3CN/water (25 CV) to provide (R)-tert-butyl 1-(5-bromo-3-(2-ethylbutanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (201 mg, 58% yield) as a solid. LCMS (APCI+) m/z 508, 510 (M+H)+, Retention time=4.15 minutes (Method 2).

reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-ethylbutanamide | 0.686 mmol, 225 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C(CC)CC)=O)F | C13H15BrFN3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.06 mmol, 412 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.37 mmol, 239 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(2-ethylbutanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 201 mg, 58% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C(CC)CC)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C23H34BrN5O3
